### PR TITLE
Add mutually recursive definition to VLSM

### PR DESCRIPTION
**Pull request by TeodorescuIoan**

### CODE REVIEW

File: theories/VLSM/Core/VLSM.v [hunk 1]
```diff
@@ -519,6 +519,123 @@ Proof.
...
+  - if <<s>> is a [state] with the [initial_state_prop]erty, then it has the
+    [valid_state_mrec];
+  - for all [state]s <<st>>, [option]al <<message>>s <<om>>, and [label] <<l>>:
+    - if <<st>> is a valid state ([valid_state_mrec]);
+    - and if <<om>> is a valid message ([valid_message_mrec]);
+    - and if <<l>> [valid] <<l (st, om)>>;
+    - then the state resulting from [transition] <<l (st, om)>> has the
+      [valid_state_mrec] property.
+*)
+
```
Comment (traiansf) [inline theories/VLSM/Core/VLSM.v:545]: I think that, if the coqdoc comment refers to the next definition, we usually don't leave blank lines after it.

File: theories/VLSM/Core/VLSM.v [hunk 2]
```diff
@@ -2693,6 +2810,144 @@ Proof.
     by eexists _, l0; apply Ht.
 Qed.
 
+(** *** Finite constrained traces *)
+
+(**
+  The ability to preload VLSM with all possible messages allows us to encode behavior
+  such as finite constrained traces, which are, by definition, finite valid traces
+  where all messages are valid (initial).
+*)
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2819]: You might want to fuse the comment with the header... maybe we even made this a convention.

```suggestion
(** *** Finite constrained traces

  The ability to preload VLSM with all possible messages allows us to encode behavior
  such as finite constrained traces, which are, by definition, finite valid traces
  where all messages are valid (initial).
*)
```

File: theories/VLSM/Core/VLSM.v [hunk 3]
```diff
@@ -2693,6 +2810,144 @@ Proof.
...
+
+Definition finite_constrained_trace_init_to `(X : VLSM message) :=
+  finite_valid_trace_init_to (pre_loaded_with_all_messages_vlsm X).
+
+(** 
+  In order to simplify proofs regarding valid/constrained traces we have defined an
+  equivalent definition for both [finite_valid_trace_init_to] and [finite_constrained_trace_init_to].
+*)
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2827]:
```suggestion
(**
  In order to simplify proofs regarding valid/constrained traces we have
  an equivalent definition for both [finite_valid_trace_init_to] and
  [finite_constrained_trace_init_to].
*)
```

File: theories/VLSM/Core/VLSM.v [hunk 4]
```diff
@@ -2693,6 +2810,144 @@ Proof.
...
+
+Inductive constrained_transitions_from_to `(X : VLSM message) :
+  state X -> state X -> list (transition_item X) -> Prop :=
+| ct_empty : forall s, constrained_transitions_from_to X s s []
+| ct_extend : forall s s' om om' l f tr, transition X l (s,om) = (s',om') ->
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2832]:
```suggestion
| ct_extend : forall s s' om om' l f tr, transition X l (s, om) = (s', om') ->
```

File: theories/VLSM/Core/VLSM.v [hunk 5]
```diff
@@ -2693,6 +2810,144 @@ Proof.
...
+    valid X l (s, om) -> constrained_transitions_from_to X s' f tr ->
+    constrained_transitions_from_to X s f
+      ({| l := l; input := om; destination := s'; output := om' |} :: tr).
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2835]: Using the constructor `Build_transition_item` might make it a bit shorter.

File: theories/VLSM/Core/VLSM.v [hunk 6]
```diff
@@ -2693,6 +2810,144 @@ Proof.
...
+
+Definition finite_constrained_trace_init_to_alt `(X : VLSM message) 
+  (s f : state X) (tr : list (transition_item X)) :=
+  constrained_transitions_from_to X s f tr /\ initial_state_prop X s.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2839]: I think the formatting looks better if you keep all the arguments on the same line. This also applies to the definitions and lemmas below.
```suggestion
Definition finite_valid_trace_init_to_alt
  `(X : VLSM message) (s f : state X) (tr : list (transition_item X)) :=
    message_valid_transitions_from_to X s f tr /\ initial_state_prop X s.
```

File: theories/VLSM/Core/VLSM.v [hunk 7]
```diff
@@ -2693,6 +2810,144 @@ Proof.
...
+
+Inductive message_valid_transitions_from_to `(X : VLSM message) :
+  state X -> state X -> list (transition_item X) -> Prop :=
+| mvt_empty : forall s, message_valid_transitions_from_to X s s []
+| mvt_extend : forall s s' om om' l f tr, option_valid_message_prop X om ->
+    transition X l (s,om) = (s',om') -> valid X l (s, om) ->
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2845]:
```suggestion
    transition X l (s, om) = (s', om') -> valid X l (s, om) ->
```

File: theories/VLSM/Core/VLSM.v [hunk 8]
```diff
@@ -2693,6 +2810,144 @@ Proof.
...
+  message_valid_transitions_from_to X s f tr /\ initial_state_prop X s.
+
+Definition constrained_state_prop `(X : VLSM message) :=
+  valid_state_prop (pre_loaded_with_all_messages_vlsm X).
+
+Definition constrained_message_prop `(X : VLSM message) :=
+  can_emit (pre_loaded_with_all_messages_vlsm X).
+
+(**
+  Equivalence proof between the [finite_constrained_trace_init_to] and
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2860]:
```suggestion
  Equivalence proof between [finite_constrained_trace_init_to] and
```

File: theories/VLSM/Core/VLSM.v [hunk 9]
```diff
@@ -2693,6 +2810,144 @@ Proof.
...
+  (s f : state X) (tr : list (transition_item X)) :
+  finite_constrained_trace_init_to_alt X s f tr -> finite_constrained_trace_init_to X s f tr.
+Proof.
+  intros [Htr Hs].
+  split; [| done].
+  apply (initial_state_is_valid (pre_loaded_with_all_messages_vlsm X)) in Hs.
+  revert s Hs Htr.
+  induction tr.
+  - intros.
+    inversion Htr; subst.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2885]: You can chain the induction with `intros` and `inversion Htr; subst` as you do it in both subgoals.

```suggestion
  induction tr; intros; inversion Htr; subst.
```

File: theories/VLSM/Core/VLSM.v [hunk 10]
```diff
@@ -2693,6 +2810,144 @@ Proof.
...
+    by apply (finite_valid_trace_from_to_empty (pre_loaded_with_all_messages_vlsm X)).
+  - intros.
+    inversion Htr; subst.
+    apply (finite_valid_trace_from_to_extend (pre_loaded_with_all_messages_vlsm X)); cycle 1.
+    + by repeat split; [| apply any_message_is_valid_in_preloaded | done ..].
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2890]: Since you're using `by` at the beginning, the `done`s at the end are not needed.
```suggestion
    + by repeat split; [| apply any_message_is_valid_in_preloaded | ..].
```

File: theories/VLSM/Core/VLSM.v [hunk 11]
```diff
@@ -2693,6 +2810,144 @@ Proof.
...
+    + apply IHtr; [| done].
+      apply valid_state_prop_iff; right.
+      exists l0, (s, om), om'.
+      by repeat split; [| apply any_message_is_valid_in_preloaded | done ..].
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2894]: Again.
```suggestion
      by repeat split; [| apply any_message_is_valid_in_preloaded | ..].
```

File: theories/VLSM/Core/VLSM.v [hunk 12]
```diff
@@ -2693,6 +2810,144 @@ Proof.
...
+  (s f : state X) (tr : list (transition_item X)) :
+  finite_constrained_trace_init_to X s f tr <-> finite_constrained_trace_init_to_alt X s f tr.
+Proof.
+  split.
+  - by apply constrained_transitions_init_to_right_impl.
+  - by apply constrained_transitions_init_to_left_impl.
+Qed.
+
+(**
+  Equivalence proof between the [finite_valid_trace_init_to] and
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2907]:
```suggestion
  Equivalence proof between [finite_valid_trace_init_to] and
```

File: theories/VLSM/Core/VLSM.v [hunk 13]
```diff
@@ -2693,6 +2810,144 @@ Proof.
...
+
+Lemma valid_transitions_init_to_right_impl `(X : VLSM message)
+  (s f : state X) (tr : list (transition_item X)) :
+  finite_valid_trace_init_to X s f tr -> finite_valid_trace_init_to_alt X s f tr.
+Proof.
+  intros [Htr Hinit].
+  constructor; [| done]; clear Hinit.
+  induction Htr.
+  - by constructor.
+  - by constructor; [apply Ht..|].
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2919]:
```suggestion
  - by constructor; [apply Ht.. |].
```

File: theories/VLSM/Core/VLSM.v [hunk 14]
```diff
@@ -2693,6 +2810,144 @@ Proof.
...
+  (s f : state X) (tr : list (transition_item X)) :
+  finite_valid_trace_init_to_alt X s f tr -> finite_valid_trace_init_to X s f tr.
+Proof.
+  intros [Htr Hs].
+  split; [| done].
+  apply (initial_state_is_valid X) in Hs.
+  revert s Hs Htr.
+  induction tr.
+  - intros.
+    inversion Htr; subst.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2932]:
```suggestion
  induction tr; intros; inversion Htr; subst.
```

**Review by wkolowski — COMMENTED** [review]
Some minor suggestions.

**Comment by TeodorescuIoan** [comment]
@wkolowski regarding the structure of the documentation and the naming conventions, i mimicked the ones from valid_state_message_prop. I will do a push with just the code refactoring for now.

**Review by palmskog — COMMENTED** [review]
@TeodorescuIoan can you do a pass over Wojciech's comments, not necessarily addressing all of them, but marking those you addressed as resolved? I can review this afterwards.

File: theories/VLSM/Core/VLSM.v [hunk 15]
```diff
@@ -2693,6 +2808,140 @@ Proof.
...
+  finite_constrained_trace_init_to_alt X s f tr -> finite_constrained_trace_init_to X s f tr.
+Proof.
+  intros [Htr Hs].
+  split; [| done].
+  apply (initial_state_is_valid (pre_loaded_with_all_messages_vlsm X)) in Hs.
+  revert s Hs Htr.
+  induction tr; intros; inversion Htr; subst.
+  - by apply (finite_valid_trace_from_to_empty (pre_loaded_with_all_messages_vlsm X)).
+  - intros.
+    inversion Htr; subst.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2884]: Since you already did `induction tr; intros; inversion Htr` above, I guess this is superfluous, right?

File: theories/VLSM/Core/VLSM.v [hunk 16]
```diff
@@ -2693,6 +2808,140 @@ Proof.
...
+  finite_valid_trace_init_to_alt X s f tr -> finite_valid_trace_init_to X s f tr.
+Proof.
+  intros [Htr Hs].
+  split; [| done].
+  apply (initial_state_is_valid X) in Hs.
+  revert s Hs Htr.
+  induction tr; intros; inversion Htr; subst.
+  - by apply (finite_valid_trace_from_to_empty X).
+  - intros.
+    inversion Htr; subst.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSM.v:2929]: Same remark as above.

File: theories/VLSM/Core/VLSM.v [hunk 17]
```diff
@@ -519,6 +519,121 @@ Proof.
...
+  This definition has three cases for [valid_message_mrec]:
+  - [None] is a valid message ([valid_None_message_mrec]);
+  - if <<m>> is an [option]al <<message>> with the [initial_message_prop]erty,
+    then it constitutes a valid message 
+  - for all [state]s <<st>>, [option]al <<message>>s <<om>>, and [label] <<l>>:
+    - if <<om>> is a valid message ([valid_message_mrec]);
+    - and if <<st>> is a valid state ([valid_state_mrec]);
+    - and if <<l>> [valid] <<l (st, om)>>;
+    - [transition] <<l (st, om)>> emmits a message which has the
+      [valid_message_mrec] property.
```
Comment (palmskog) [inline theories/VLSM/Core/VLSM.v:534]: I think the following would be fine:
```suggestion
    - the [transition] <<l (st, om)>> emits a message which has the
      [valid_message_mrec] property.
```

File: theories/VLSM/Core/VLSM.v [hunk 18]
```diff
@@ -519,6 +519,123 @@ Proof.
...
+    - and if <<om>> is a valid message ([valid_message_mrec]);
+    - and if <<l>> [valid] <<l (st, om)>>;
+    - then the state resulting from [transition] <<l (st, om)>> has the
+      [valid_state_mrec] property.
+*)
+
+Inductive valid_message_mrec : option message -> Prop :=
+| valid_None_message_mrec : valid_message_mrec None
+| valid_initial_message_mrec : forall m, initial_message_prop X m -> valid_message_mrec (Some m)
+| valid_generated_message_mrec : forall {l : label X} {om om' : option message} {st st' : state X},
```
[the remark this answers is not in the document]
Comment (palmskog) [reply theories/VLSM/Core/VLSM.v:549]: I agree it's customary to put the differentiating part of the name at the end.

**Review by palmskog — COMMENTED** [review]
I think this is ready to go out of draft now (and be approved after that), but take a look at my comments.

File: theories/VLSM/Core/VLSM.v [hunk 19]
```diff
@@ -519,6 +519,123 @@ Proof.
...
+  - by intros; apply initial_state_is_valid.
+  - intros * ? ? [] ? [] Htr.
+    by eexists; eapply valid_generated_state_message; cycle 1.
+Qed.
+
+Lemma valid_impl_valid_message_prop :
+  forall (om : option message),
+    valid_message_mrec om -> option_valid_message_prop om.
+Proof.
+  apply valid_message_ind with (P0 := fun s _ => valid_state_prop s).
```
[the remark this answers is not in the document]
Comment (wkolowski) [reply theories/VLSM/Core/VLSM.v]: I see this was changed to `Pmsg` and `Pstate` after the latest refactoring - I think this change is for the better.

**Comment by palmskog** [comment]
@traiansf due to recent refactorings, I had to move some results to `PreloadedVLSM.v` to keep up with dependencies. Could you take a quick look that everything looks reasonable? If there are no problems, I think we go ahead and merge this.

**Review by traiansf — APPROVED** [review]
It's ok to merge now, but I'm a bit uneasy about having the definition of constrained things being dependent on preloaded. I suggest we should flip the names of constrained definitions with their _alt versions and keep the direct ones in the VLSM module next to the valid definitions

**Comment by wkolowski** [comment]
I agree with @traiansf. This was previously a bit blurry because `preloaded` was living in VLSM.v, but now it's pretty clear that the fundamental definitions should live in VLSM.v and the ones in Preloaded.v are more like alternative versions.

**Comment by palmskog** [comment]
@traiansf @wkolowski OK, but could either of you take over the PR and address this? Just from the comments, I'm not sure what you want the placement of definitions to be.

**Comment by traiansf** [comment]
I can take over

**Comment by traiansf** [comment]
@palmskog or @wkolowski could you please take a look at https://github.com/runtimeverification/vlsm/commit/173a082a16dec03690bb6b7ac2fdfb8d5761631b ?

I've done the following:
- flip the names of constrained definitions with their _alt versions
- moved the constrained trace definition back in VLSM
- gave definitions based on it to constrained states and constrained messages
- proved those equivalent to their _alt version in PreloadedVLSM
- gave alternate definition for valid state and proved it equivalent to its original one.

**Review by palmskog — APPROVED** [review]
@traiansf I think this looks good now. My only criticism, which is probably better to address in future PR, is that the `_alt` suffix is very generic and should ideally be replaced with some that uniquely identifies what is different with the definitions/lemmas.
